US08754114B2
Step 1: methyl 3-(6-oxo-1,6-dihydropyridazin-4-yl)benzoate
Dichloro(bis{di-tert-butyl[4-(dimethylamino)phenyl]phosphoranyl})palladium (85 mg, 0.12 mmol) was added to a mixture of 5-chloropyridazin-3(4H)-one (0.52 g, 4.0 mmol, Maybridge, Cat. No. MO08305), [3-(methoxycarbonyl)phenyl]boronic acid (0.864 g, 4.80 mmol, Aldrich, Cat. No. 591130) and sodium carbonate (0.85 g, 8.0 mmol) in 1,4-dioxane (9 mL) and water (1 mL). The reaction mixture was vacuumed and refilled with nitrogen 3 times. The reaction was stirred at 95° C. overnight. To this reaction mixture was added dioxane (3.0 ml) and water (10 ml) and then filtered, washed with acetonitrile/water, dried to provide the pure product (0.86 g). LCMS (M+H)+: m/z=231.1

reactant | 5-chloropyridazin-3(4H)-one | ClC=1CC(N=NC1)=O | C4H3ClN2O
reactant | [3-(methoxycarbonyl)phenyl]boronic acid | COC(=O)C=1C=C(C=CC1)B(O)O | C8H9BO4
reactant | sodium carbonate | 8.0 mmol, 0.85 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxane | 9 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
catalyst | Dichloro(bis{di-tert-butyl[4-(dimethylamino)phenyl]phosphoranyl})palladium | 0.12 mmol, 85 mg | Cl[Pd](P(C(C)(C)C)(C(C)(C)C)C1=CC=C(C=C1)N(C)C)(P(C1=CC=C(C=C1)N(C)C)(C(C)(C)C)C(C)(C)C)Cl
solvent | water | 10 ml | O | H2O
solvent | dioxane | 3.0 ml | O1CCOCC1 | C4H8O2
product | methyl 3-(6-oxo-1,6-dihydropyridazin-4-yl)benzoate | 0.86 g | O=C1C=C(C=NN1)C=1C=C(C(=O)OC)C=CC1 | C12H10N2O3
